US08754229B2
Preparation of methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-hydroxypicolinate
The methyl 4-acetamido-3-(benzyloxy)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-picolinate produced in the first step was dissolved in ethyl alcohol (EtOH; 100 mL), and a catalytic amount of palladium hydroxide (Pd(OH)2) in carbon was added (2 spatula tips). The reaction mixture was stirred under a hydrogen atmosphere for 24 h, and the palladium was removed by filtration. The filtrate was concentrated, and the residue was purified by flash chromatography (SiO2; 0-50% EtOAc/hexane gradient) to provide the title compound as a white solid (0.431 g, 29% yield for the two steps): mp 168-172° C.; 1H NMR (400 MHz, CDCl3) δ 11.28 (s, 1H), 8.93 (d, J=1.6 Hz, 1H), 7.98 (s, 1H), 7.49 (dd, J=8.5, 7.6 Hz, 1H), 7.23 (dd, J=8.6, 1.8 Hz, 1H), 4.07 (s, 3H), 3.99 (d, J=1.1 Hz, 3H), 2.30 (s, 3H); ESIMS m/z 369 ([M+H]+).

reactant | methyl 4-acetamido-3-(benzyloxy)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-picolinate | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)OCC1=CC=CC=C1 | C23H20ClFN2O5
solvent | ethyl alcohol | 100 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-hydroxypicolinate | 29% yield | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)O | C16H14ClFN2O5
